Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Keflex / Latuda
 
Attending: ___.
 
Chief Complaint:
Fever, Weakness
 
Major Surgical or Invasive Procedure:
Lumbar Puncture

 
History of Present Illness:
Mr. ___ is a ___ year old male, with prior history of DVT/PE, 
depression, asplenia ___ to stab wound to abdomen, who presents 
today for fevers, persistent cough, and acute onset of headache. 


Patient reports that early ___, he was seen by his PCP, ___. 
___, for increased cough. At that time, he had a 
progressive more productive thick green sputum, no hemoptysis. 
He reported that he had thought initially that he had some 
fevers, but hadn't taken temperatures, and no dyspnea with 
exertion. He still had a L > R lower extremity swelling, remnant 
from prior DVT which has not changed. At that time, he was 
treated with a course of antibiotics for presumed left lower 
lobe and was given a course of levofloxacin x 7 days. 

Patient reports that he still has had persistent cough, and 
happens especially at the end of expiration. He has been mildly 
productive a semi-viscous, clearish sputum, however has not 
improved. Patient reports that 1 day ago, he then experienced 
fever to 102.5 while helping clean the lights outside. Patient 
reports that with fever he had onset of headache, and 
potentially some dizziness. He then felt weak in his legs, and 
called HCA who recommended evaluation in the ED. Review of 
systems notable for some intermittent dizziness. Patient reports 
that his appetite has been good. 

Patient reports that he was recently taken off of Coumadin for 
PE after completion of total anticoagulation, Thought to be 
provodked in nature with 6 months of therapy. Plan for potential 
check of D-dimer < 500 and then discontinuation for recurrence. 

In the ED, initial vital signs were: 7 99.7 105 145/94 18 96% RA 
 

- Labs showed an unremarkable chem 7, and CBC (except for mild 
anemia), normal lactate, and CSF with 2 WBC's  

- CT head showed no acute process and Chest xray showed no 
pneumonia. Given concern for possible meningitis with his fever 
and headache, patient underwent LP which showed CSF with 2 WBCs. 
Patient underwent treatment with reglan, lorazepam, 
dexamethasone for meningitis, and then treated with Vanc + 
ciprofloxacin.  

- The patient was given:  
PO Acetaminophen 1000 mg  
IV Metoclopramide 10 mg  
IV LORazepam 1 mg  
IV Ciprofloxacin 400 mg  
IV Dexamethasone 10 mg  
IV Vancomycin 1500 mg  
IV Morphine Sulfate 4 mg  

Upon arrival to the floor, patient reports that he has a 
headache and cough. Patient reports that he is otherwise well.
Remainder of review of systems negative - with the exception of 
chronic depression and fatigue.
 
Past Medical History:
1. Asplenia, following stab wound to the abdomen in ___
2. Adhesions: Requiring laparotomy in ___
3. SBO 
4. Depression
5. Deep Venous Thrombosis
6. Pulmonary Embolism
7. History of shingles
8. History of Alcohol Abuse. 
 
Social History:
___
Family History:
Adopted.  no knowledge. 
 
Physical Exam:
>> ADMISSION PHYSICAL EXAM: 
General: Alert, laying in bed, conversing, no acute distress. 
HEENT: There is a left frontal cyst, with active mild drainage. 
No sinus tenderness in the frontal or sphenoid. Dentition is 
average, no acute infection. No posterior pharynx hyperemia. 
Lungs: Clear to auscultation bilaterally, no adventitial sounds. 

CV: Distant, S1, S2. No extra sounds heard. 
Abdomen: Midline surgical scar well healed. There are diffuse 
erythema scattered, NT/ND. 
Extremities: R > L lower extremity swelling, good pulse, no pain 
in calf. 
.
>> DISCHARGE PHYSICAL EXAM: 
PHYSICAL EXAM:  98   122/72  90  20  99 RA
General: Alert, laying in bed, conversing, no acute distress. 
HEENT: There is a left frontal cyst, with active mild drainage. 
No sinus tenderness in the frontal or sphenoid. Dentition is 
average, no acute infection. No posterior pharynx hyperemia. 
Lungs: Clear to auscultation bilaterally, no adventitial sounds. 

CV: Distant, S1, S2. No extra sounds heard. 
Abdomen: Midline surgical scar well healed. There are diffuse 
erythema scattered, NT/ND. 
Extremities: R > L lower extremity swelling, good pulse, no pain 
in calf. 
 
Pertinent Results:
>> ADMISSION LABS:
___ 03:48AM BLOOD WBC-8.2 RBC-4.24* Hgb-13.1* Hct-38.3* 
MCV-90 MCH-30.9 MCHC-34.2 RDW-14.6 RDWSD-48.3* Plt ___
___ 03:48AM BLOOD Neuts-77.8* Lymphs-14.3* Monos-7.0 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-6.34* AbsLymp-1.17* 
AbsMono-0.57 AbsEos-0.02* AbsBaso-0.04
___ 03:48AM BLOOD Glucose-112* UreaN-14 Creat-1.1 Na-136 
K-4.0 Cl-102 HCO3-25 AnGap-13
___ 03:48AM BLOOD Albumin-4.1
___ 06:15AM BLOOD Calcium-9.4 Phos-3.0 Mg-2.1
___ 04:05AM BLOOD Lactate-1.1
.
>> DISCHARGE LABS:
___ 06:15AM BLOOD WBC-11.0* RBC-4.11* Hgb-12.7* Hct-37.9* 
MCV-92 MCH-30.9 MCHC-33.5 RDW-14.9 RDWSD-50.3* Plt ___
___ 06:15AM BLOOD Glucose-125* UreaN-20 Creat-1.0 Na-138 
K-4.0 Cl-103 HCO3-25 AnGap-14
.
>> MICROBIOLOGY: 
___ 02:43AM CEREBROSPINAL FLUID (CSF) WBC-2 RBC-1* Polys-0 
___ ___ 02:43AM CEREBROSPINAL FLUID (CSF) TotProt-38 Glucose-65
__________________________________________________________
___ 5:17 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
__________________________________________________________
___ 12:18 am URINE      LEG ADDED TO ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 4:07 am
      BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 2:43 am CSF;SPINAL FLUID      #3. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 1:30 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
.
>> PERTINENT IMAGING:
___ CHEST: 
 
The aorta and its major branch vessels are patent, with no 
evidence of
stenosis, occlusion, dissection, or aneurysmal formation.  There 
is no
evidence of penetrating atherosclerotic ulcer or aortic arch 
atheroma present.
 
The pulmonary arteries are well opacified to the subsegmental 
level, with no evidence of filling defect within the main, 
right, left, lobar, segmental or subsegmental pulmonary 
arteries.  The main and right pulmonary arteries are normal in 
caliber, and there is no evidence of right heart strain. There 
is no supraclavicular, axillary, mediastinal, or hilar 
lymphadenopathy. A 9 mm right lower paratracheal lymph node is 
morphologically benign-appearing, with a fatty hilus (02:50), 
and is not meet CT size threshold for pathologic enlargement.  
The thyroid gland appears unremarkable. There is no evidence of 
pericardial effusion.  There is no pleural effusion.
 
There is no evidence of pulmonary parenchymal abnormality. The 
airways are
patent to the subsegmental level.
 
A partially visualized 5.2 cm simple cyst in the interpolar left 
kidney and a 3.1 cm simple cyst in the upper pole of the left 
kidney are again seen. 
Otherwise, limited images of the upper abdomen are unremarkable. 
No lytic or blastic osseous lesion suspicious for malignancy is 
identified.
 
IMPRESSION:
1. No evidence of pulmonary embolism or aortic abnormality.
2. No evidence of pneumonia.
3. Left renal cysts.
.
___ LOWER EXT VEINS:
There is normal compressibility, flow, and augmentation of the 
LEFT common
femoral, femoral, and popliteal veins. Normal color flow and 
compressibility are demonstrated in the posterior tibial and 
peroneal veins. On the right.  The popliteal vein and peroneal 
veins are noncompressible and 2 not demonstrate color flow.  The 
right common femoral, femoral, perineal and posteror tibial 
veins show normal compressibility and color flow. There is 
normal respiratory variation in the common femoral veins 
bilaterally. No evidence of medial popliteal fossa (___) cyst.
 
IMPRESSION: DVT involving the right popliteal and peroneal 
veins.
.
___ HEAD W/O CONTRAST: 1. No acute 
intracranial process.

 
Brief Hospital Course:
Mr. ___ is a ___ year old male, with history of asplenia, 
presenting with 1 day history of fevers, persistent cough and 
headache. 
.
>> ACTIVE ISSUES: 
# Fever: Patient initially presented with fever, a chronic 
cough, and headache. Given concern for asplenia, patient was 
covered in the ___ ED with broad spectrum antibiotics 
including vancomycin, ciprofloxacin, and patient underwent CT 
Head which was negative and chest x-ray which showed bilateral 
atelectasis without pneumonia. Given chronic cough and fever, 
when patient was initially admitted he was continued on IV 
antibiotics. Patient was found to have chronic right lower 
extremity swelling, and given prior history of DVT now s/p 
anticoagulation x 6 months, he underwent repeat ultrasound which 
demonstrated DVT with complete occlusion. Furthermore, outside 
records from ___ also reviewed which showed 
that prior DVT involved femoral, popliteal (not peroneal however 
not visualized and femoral), and this DVT involved popliteal and 
peroneal. Given history of chronic cough, prior treatment for 
pneumonia from PCP several weeks ago, patient underwent CTA 
which was negative for both PE and pneumonia. Patient therefore 
was given ___ for DVT and likely will require lifelong 
anti-coagulation, and communicated results to PCP. Furthermore, 
patient had previously undergone partial hypercoagulable workup 
during initial diagnosis of PE/DVT at ___ which 
was negative for Factor V Leiden and Prothrombin Gene mutation. 
Patient's fever therefore was thought to be ___ to clot and not 
infection, and stable for discharge. 
. 
# Right Lower Extremity DVT: As described above, patient was 
started on ___ loading dose x 3 weeks, and patient to 
follow up with PCP regarding further workup and maintenance. 
Patient's DVT was thought to be unprovoked in this setting. 
. 
# Depression: Patient was continued on home lamictal, 
brintellix, abilify and Deplin. 
. 
# Insomnia: Patient was continued on home clonazepam while 
inpatient. 
. 
# Asplenia: Patient was given further information regarding 
broad spectrum antibiotics and risk of sepsis in asplenic 
condition. Patient also discharged with antibiotic prescription 
for levofloxacin to have in case of future fever to reduce risk 
of overwhelming sepsis. 
. 
>> TRANSITIONAL ISSUES: 
# DVT: Patient started on ___ need loading doses x 
3 weeks, and then maintenance dosing thereafter. 
# ___ AV Block: Patient's EKG during inpatient, would 
follow serially yearly 
# Pending Labs: Patient has infectious studies pending, 
including blood and CSF culture. 
# Anemia: Patient found to be normocytic anemia, will need to 
have follow-up workup.
# Frontal Abscess: Resolving upon discharge, to finished 3 day 
course of levofloxacin
# Asplenia: Given high risk of sepsis, separate prescription for 
levofloxacin was given to patient in case of fever 
# CODE STATUS: Full  
# CONTACT: Cousin, ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 100 mg PO DAILY 
2. Brintellix (vortioxetine) 10 mg oral DAILY 
3. ARIPiprazole 2 mg PO DAILY 
4. ClonazePAM 1 mg PO QHS:PRN insomnia 
5. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 
6. Pravastatin 20 mg PO QPM 
7. Deplin (algal oil) (levomefolate-algal oil) unknown mg oral 
DAILY 
8. MethylPHENIDATE (Ritalin) 10 mg PO BID:PRN fatigue 

 
Discharge Medications:
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 
2. ARIPiprazole 2 mg PO DAILY 
3. ClonazePAM 1 mg PO QHS:PRN insomnia 
4. LamoTRIgine 100 mg PO DAILY 
5. Pravastatin 20 mg PO QPM 
6. Brintellix (vortioxetine) 10 mg oral DAILY 
7. Deplin (algal oil) (levomefolate-algal oil) unknown  ORAL 
DAILY 
8. MethylPHENIDATE (Ritalin) 10 mg PO BID:PRN fatigue 
9. ___ 15 mg PO BID 
3 weeks 
RX ___ [___] 15 mg 1 tablet(s) by mouth twice daily 
Disp #*41 Tablet Refills:*0
RX ___ [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0
10. Levofloxacin 500 mg PO Q24H 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 1. Lower Extremity Deep Venous Thrombosis
SECONDARY DIAGNOSES: 1. Asplenia   

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your hospital stay 
at ___. You were hospitalized 
here for a fever, and we did a lumbar puncture which did not 
show any concerns for infection, and also did an ultrasound 
which showed a clot. We also performed a CT scan of your chest 
which did not show any pulmonary emboli or pneumonia, and 
therefore we believe that your fever is not from infection but 
from this blood clot. 

We have started you on a new medication called ___. 
Please continue to take this medication as prescribed. If you 
are ever hospitalized or in an accident, please notify 
healthcare personnel that you are on this blood thinner given 
higher risk of bleeding. 

Because you do not have a spleen, we have also given you an 
antibiotic to take in case you do have a fever in the future. 

Take Care,
Your ___ Team.  
 
Followup Instructions:
___